US06011046
4-Acetoxy-2,3-dimethoxy-5-methylphenol
An aqueous solution (150 ml) of potassium carbonate (9.8 g) was added to a solution of 1,4-diacetoxy-5,6-dimethoxy-2-methylbenzene (31 g) in methanol (200 ml), and the mixture was stirred under an atmosphere of argon at room temperature for 1 hour. The reaction mixture was ice-cooled, made acidic by addition of hydrochloric acid (11 ml) and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (26 g, 90%) as an oil.

reactant | potassium carbonate | 150 ml, 9.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-diacetoxy-5,6-dimethoxy-2-methylbenzene | 31 g | C(C)(=O)OC1=C(C=C(C(=C1OC)OC)OC(C)=O)C | C13H16O6
reactant | hydrochloric acid | 11 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 4-Acetoxy-2,3-dimethoxy-5-methylphenol | 26 g, 90% | C(C)(=O)OC1=C(C(=C(C=C1C)O)OC)OC | C11H14O5
